US20010008892A1
4-(1,3-Benzodioxol-5-ylmethyl)-N-(1,1-dimethylethyl)-1-[(2R,3S)-3-[[(2S)-2-[[3-[2-(1-methylethyl)-4-thiazolyl]-1-oxopropyl]amino]-3-methyl-1-oxobutyl]amino]-2-hydroxy-4-phenylbutyl]-2-piperazinecarboxamide
The title compound is prepared according to the method described in Example 1E, substituting N-(1,1-dimethylethyl)-1-[(2R,3S)-3-[[(2S)-2-[[3-[2-(1-methylethyl)-4-thiazolyl]-1-oxopropyl]amino]-3-methyl-1-oxobutyl]amino]-2-hydroxy-4-phenylbutyl]-2-piperazinecarboxamide in place of 2-(1-methylethyl)-4-thiazolylmethyl-(1S)-1-[[[(1S,2R)-3-[(2S)-2-[[(1,1-dimethylethyl)amino]carbonyl]-1-piperazinyl]-2-hydroxy-1-(phenylmethyl)propyl]amino]carbonyl]-2-methylpropyl]carbamate.

reactant | N-(1,1-dimethylethyl)-1-[(2R,3S)-3-[[(2S)-2-[[3-[2-(1-methylethyl)-4-thiazolyl]-1-oxopropyl]amino]-3-methyl-1-oxobutyl]amino]-2-hydroxy-4-phenylbutyl]-2-piperazinecarboxamide | CC(C)(C)NC(=O)C1N(CCNC1)C[C@H]([C@H](CC1=CC=CC=C1)NC([C@H](C(C)C)NC(CCC=1N=C(SC1)C(C)C)=O)=O)O | C33H52N6O4S
reactant | carbamate | C(N)([O-])=O
product | 4-(1,3-Benzodioxol-5-ylmethyl)-N-(1,1-dimethylethyl)-1-[(2R,3S)-3-[[(2S)-2-[[3-[2-(1-methylethyl)-4-thiazolyl]-1-oxopropyl]amino]-3-methyl-1-oxobutyl]amino]-2-hydroxy-4-phenylbutyl]-2-piperazinecarboxamide | O1COC2=C1C=CC(=C2)CN2CC(N(CC2)C[C@H]([C@H](CC2=CC=CC=C2)NC([C@H](C(C)C)NC(CCC=2N=C(SC2)C(C)C)=O)=O)O)C(=O)NC(C)(C)C | C41H58N6O6S
